US07994185B2
N-[3-(2-(1,1-Dimethylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (100 mg, 0.186 mmol) and isobutylamine (2 mL) the title compound was obtained as a white powder (52 mg, 48.7% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.76 (s, 1H), 8.04 (d, J=5.2 Hz, 1H), 7.35-7.57 (m, 6H), 7.28 (t, J=7.8 Hz, 1H), 5.84 (bs, 1H), 2.95 (bs, 2H), 1.80 (bs, 1H), 1.40 (s, 9H), 0.86 (d, J=5.5 Hz, 6H). MS (ESI): 574 [M−H]−.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.186 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N4O2S2
reactant | isobutylamine | 2 mL | C(C(C)C)N | C4H11N
product | N-[3-(2-(1,1-Dimethylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,5-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC(=NC=C1)NCC(C)C | C27H28F3N5O2S2
